Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bicycle crash
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ on ASA and Plavix, helmeted bicyclist s/p crash, +LOC, R 
post ___ rib fx, R flank bleed/hematoma, R RP hematoma, w/ 
continued bleeding and CTA c/w small bleed into RP hematoma.
 
Past Medical History:
Cardiac stent placements, L knee surgery
 
Social History:
___
Family History:
Non-contributory
 
Pertinent Results:
OSH CT head, C-spine, torso - uploaded to OMR/POE

CTA A/P ___
1. Similar-sized 5.5 x 3.3 x 9.7 cm right retroperitoneal 
hematoma with active arterial extravasation from a right L3 
lumbar artery.
2. Similar-sized 12.4 x 4.0 x 7.7 cm right gluteal hematoma 
without evidence active bleeding.
3. Extensive unchanged right flank and enlarging midline back 
subcutaneous hematoma, which measures 17.6 x 2.5 x 28.7 cm.  No 
evidence of active bleeding.
4. Unchanged right posterior eleventh and twelfth rib minimally 
displaced
fractures.  No new acute fractures.
5. Hepatic steatosis.
6. Sigmoid diverticulosis without diverticulitis.

___ 06:22AM BLOOD WBC-3.6* RBC-2.66* Hgb-8.0* Hct-24.3* 
MCV-91 MCH-30.1 MCHC-32.9 RDW-13.5 RDWSD-43.5 Plt ___
___ 03:43PM BLOOD WBC-3.7* RBC-2.77* Hgb-8.3* Hct-25.3* 
MCV-91 MCH-30.0 MCHC-32.8 RDW-13.1 RDWSD-42.8 Plt ___
___ 10:35AM BLOOD WBC-3.5* RBC-2.84* Hgb-8.6* Hct-25.4* 
MCV-89 MCH-30.3 MCHC-33.9 RDW-12.8 RDWSD-41.3 Plt ___
___ 05:05PM BLOOD WBC-3.7* RBC-2.53* Hgb-7.7* Hct-22.2* 
MCV-88 MCH-30.4 MCHC-34.7 RDW-12.7 RDWSD-40.5 Plt ___
___ 07:26PM BLOOD WBC-4.9 RBC-2.60* Hgb-7.6* Hct-22.7* 
MCV-87 MCH-29.2 MCHC-33.5 RDW-12.5 RDWSD-40.1 Plt ___
___ 09:48AM BLOOD WBC-4.4 RBC-3.04* Hgb-9.2* Hct-27.3* 
MCV-90 MCH-30.3 MCHC-33.7 RDW-12.9 RDWSD-42.2 Plt ___
___ 04:11AM BLOOD WBC-4.2 RBC-2.94* Hgb-8.7* Hct-26.3* 
MCV-90 MCH-29.6 MCHC-33.1 RDW-12.8 RDWSD-41.8 Plt ___
___ 09:04PM BLOOD WBC-4.5 RBC-3.20* Hgb-9.3* Hct-28.1* 
MCV-88 MCH-29.1 MCHC-33.1 RDW-13.0 RDWSD-41.9 Plt ___
___ 02:32PM BLOOD WBC-6.5 RBC-3.68* Hgb-11.2* Hct-33.1* 
MCV-90 MCH-30.4 MCHC-33.8 RDW-13.0 RDWSD-42.8 Plt ___
___ 08:46AM BLOOD ___ PTT-29.5 ___
___ 04:11AM BLOOD ___ PTT-27.6 ___
___ 02:32PM BLOOD ___ PTT-27.4 ___
___ 01:11AM BLOOD ___ PTT-26.2 ___
___ 06:22AM BLOOD Glucose-92 UreaN-10 Creat-0.7 Na-142 
K-4.3 Cl-104 HCO3-29 AnGap-9*
___ 06:56AM BLOOD Glucose-106* UreaN-8 Creat-0.7 Na-142 
K-4.2 Cl-105 HCO3-28 AnGap-9*
___ 10:35AM BLOOD Glucose-103* UreaN-8 Creat-0.7 Na-140 
K-3.9 Cl-101 HCO3-24 AnGap-15
___ 08:46AM BLOOD Glucose-72 UreaN-13 Creat-0.8 Na-141 
K-3.7 Cl-101 HCO3-24 AnGap-16
___ 04:11AM BLOOD Glucose-92 UreaN-21* Creat-0.9 Na-141 
K-4.2 Cl-106 HCO3-27 AnGap-8*
___ 02:32PM BLOOD Glucose-103* UreaN-24* Creat-0.9 Na-143 
K-4.2 Cl-107 HCO3-26 AnGap-10
___ 01:11AM BLOOD Glucose-153* UreaN-25* Creat-1.0 Na-143 
K-5.2 Cl-109* HCO3-20* AnGap-14
___ 06:22AM BLOOD Calcium-8.7 Phos-4.2 Mg-1.9
___ 06:56AM BLOOD Calcium-8.3* Phos-3.7 Mg-2.0
___ 10:35AM BLOOD Calcium-8.4 Phos-3.1 Mg-2.0
___ 08:46AM BLOOD Calcium-8.4 Phos-3.8 Mg-2.0
___ 04:11AM BLOOD Calcium-8.2* Phos-2.9 Mg-2.1
___ 02:32PM BLOOD Calcium-8.4 Phos-3.4 Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ yo M on aspirin and ___ transferred from 
outside hospital after a bicycle crash on ___ after 
sustaining a bicycle crash with positive loss of consciousness. 
He underwent CT imagine and found to have a right kidney 
hematoma, right rib fractures, and a bruise on the right gluteal 
region. He was admitted to the intensive care unit for close 
hemodynamic monitoring and frequent hematocrit checks. 

___ was admitted to the ICU for close hemodynamic 
monitoring. His H/H slowly downtrended but remained 
hemodynamically stable. On ___, his hematocrit decreased to 
20.8 and received 1 U pRBC and 1 U Plt. He remained 
hemodynamically stable and was subsequently transferred to the 
floor. He went for angio w/ ___ on ___, however no active 
extravasation was noted and thus no vessel was embolized.

On the floor, his aspirin and Plavix were resumed on ___ 
and hematocrit remained stable. His pain was well controlled on 
acetaminophen and dilaudid. He was able to tolerate a regular 
diet without difficulty. The large hematoma was marked and 
remained within the margins. His skin was soft with no skin 
changes. Occupational therapy was consulted for concussion 
assessment given loss of consciousness and the patient was 
cleared for discharge to home.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
Plavix 75', pantoprazole 40', ASA 81', atorvastatin 40', 
Tamsulosin 0.4', nitroglycerin prn, losartan 10'
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Moderate 
RX *hydromorphone 2 mg 1 tablet(s) by mouth every ___ hours Disp 
#*20 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Clopidogrel 75 mg PO DAILY  
7.  Pantoprazole 40 mg PO Q24H  
8.  Tamsulosin 0.4 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right flank hematoma
Mild TBI
Retroperitoneal hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Surgery Service on ___ 
after a fall sustaining a large right flank bruise. Your blood 
counts were closely monitored in the intensive care unit. Your 
levels decreased slowly and therefore you had an angiogram but  
it showed no active bleeding. Your blood levels stabilized and 
therefore your blood thinners (Aspirin and Plavix) were 
restarted. 

You are now doing better, pain is controlled, and your blood 
counts are stable. 

You are now ready to be discharged to home with the following 
discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up in clinic.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___